US07750145B2
To a solution of 4-methyl-1H-indole (2.53 g) in N,N-dimethylformamide (20 mL) was added 55% sodium hydride (0.88 g) under ice-cooling, and the mixture was stirred at the same temperature for 5 minutes. To this mixture was added p-toluenesulfonyl chloride (4.04 g) at the same temperature, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give 4-methyl-1-(toluene-4-sulfonyl)-1H-indole (4.99 g). This material was dissolved in dichloromethane (100 mL). To the solution was added bromine (26% dichloromethane solution, 12.62 g) in a dropwise manner under ice-cooling, and the mixture was stirred at the same temperature for 15 minutes. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1). The purified material was crystallized from n-hexane-diethyl ether, and the crystals were collected by filtration. The crystals were washed with n-hexane and dried under reduced pressure to give the title compound (4.8 g).

reactant | 4-methyl-1H-indole | 2.53 g | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 4.04 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-methyl-1-(toluene-4-sulfonyl)-1H-indole | 4.99 g | CC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H15NO2S
